US04927818
To a suspension of phthalic acid salt (10.0 g) of 2-cyano-2-(1-ethoxycarbonyl-1-methylethoxyimino)-acetamidine in methanol (60 ml) were added dropwise triethylamine (9.01 g) and bromine (3.67 g) at -15~-10° C. After stirring for 15 minutes at the same temperature, N,N-dimethylformamide (6.0 ml) and a solution of potassium thiocyanate (2.23 g) in methanol (22.3 ml) were added dropwise thereto at -15~-10° C. After stirring for one hour at -5~0° C., the solution was poured into cold water (300 ml) and the mixture was stirred for one hour under ice-cooling. The resulting precipitate was collected by filtration, washed with cold water (60 ml) and dried under reduced pressure to give 2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-ethoxycarbonyl-1-methylethoxyimino)-acetonitrile (3.82 g).

reactant | phthalic acid | 10.0 g | C(C=1C(C(=O)O)=CC=CC1)(=O)O | C8H6O4
reactant | 2-cyano-2-(1-ethoxycarbonyl-1-methylethoxyimino)-acetamidine | C(#N)C(C(=N)N)=NOC(C)(C)C(=O)OCC | C9H14N4O3
reactant | bromine | 3.67 g | BrBr | Br2
reactant | potassium thiocyanate | 2.23 g | [S-]C#N.[K+]
solvent | methanol | 60 ml | CO | CH4O
solvent | methanol | 22.3 ml | CO | CH4O
solvent | water | 300 ml | O | H2O
solvent | N,N-dimethylformamide | 6.0 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 9.01 g | C(C)N(CC)CC | C6H15N
product | 2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-ethoxycarbonyl-1-methylethoxyimino)-acetonitrile | 3.82 g | NC1=NC(=NS1)C(C#N)=NOC(C)(C)C(=O)OCC | C10H13N5O3S
